US09388161B2
HCl (4 M in 1,4-dioxane, 0.58 mL, 2.30 mmol) was added to a solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-4-hydroxypiperidin-4-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.128 g, 0.230 mmol) in 1,4-dioxane (1.0 mL), and the reaction mixture stirred at rt for 1 h. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was dissolved in dichloromethane and then filtered through a plug of silica gel (eluting with 10% ethanol-ethyl acetate). The filtrate was concentrated to afford methyl (S)-5-cyclobutoxy-6-(2-(4-hydroxypiperidin-4-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (62 mg, 59%). 1H NMR (300 MHz, DMSO-d6) 6 ppm 1.11 (d, J=6.45 Hz, 3H), 1.22-1.72 (m, 6H), 1.93-2.24 (m, 7H), 2.39-2.49 (m, 2H), 2.71-2.96 (m, 4H), 3.69 (s, 3H), 4.05-4.20 (m, 1H), 4.47 (dq, J=13.05, 6.50 Hz, 1H), 5.88 (s, 1H), 7.33 (d, J=8.79 Hz, 1H), 7.69 (d, J=8.50 Hz, 1H), 7.77 (s, 1H). MS (ESI, pos. ion) m/z 458 [M+H]+.

reactant | HCl | 2.30 mmol, 4 M, 0.58 mL | Cl | ClH
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-4-hydroxypiperidin-4-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.230 mmol, 0.128 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C29H39N3O6S
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | methyl (S)-5-cyclobutoxy-6-(2-(4-hydroxypiperidin-4-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 62 mg, 59% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N=C(SC1)C1(CCNCC1)O)C(=O)OC)C | C24H31N3O4S
